US06696461B2
16. (7R,8R,9R)-7,8-Dihydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
0.4 g of (8R, 9R)-8-hydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h]-[1,7]naphthyridin-7-one are reacted with sodium borohydride analogously to Example 15. After purification on silica gel (mobile phase: methylene chloride/methanol=100/3), 120 mg of the title compound [Rf=0.44 (methylene chloride/methanol=13/1)] of melting point 202-5° C. (decomp.) are obtained.

reactant | (8R, 9R)-8-hydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h]-[1,7]naphthyridin-7-one | 0.4 g | O[C@@H]1[C@H](NC=2C=3N(C=C(C2C1=O)COC)C(=C(N3)C)C)C3=CC=CC=C3 | C20H21N3O3
reactant | sodium borohydride | [BH4-].[Na+]
product | (7R,8R,9R)-7,8-Dihydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | O[C@H]1[C@@H]([C@H](NC=2C=3N(C=C(C12)COC)C(=C(N3)C)C)C3=CC=CC=C3)O | C20H23N3O3
